US05866560
b) 1-Bromo-5-tert-butyldimethylsilyloxypentane
A solution of 28 g of crude 5-bromo-1-pentanol in 144 ml of tetrahydrofuran is mixed with 24 g of imidazole. Then, a solution of 30.3 g of tert-butyldimethylchlorosilane in 46 ml of tetrahydrofuran is added in drops, and it is stirred for 4 hours at room temperature. The reaction mixture is poured into water, shaken out with diethyl ether, the organic phase is washed 4 times with water, dried on sodium sulfate and concentrated by evaporation. The crude product is chromatographed on silica gel with hexane/diethyl ether. 42 g of the title compound is obtained as a colorless liquid.

reactant | 5-bromo-1-pentanol | 28 g | BrCCCCCO | C5H11BrO
reactant | imidazole | 24 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 30.3 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | O | H2O
solvent | tetrahydrofuran | 144 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 46 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Bromo-5-tert-butyldimethylsilyloxypentane | 42 g | BrCCCCCO[Si](C)(C)C(C)(C)C | C11H25BrOSi
